US06949579B2
853 mg of 2-chlorophenylboronic acid, 30 cm3 of water, 964 mg of sodium carbonate and 252 mg of tetrakis(triphenylphosphine)palladium are added to 1 g of N-[6-bromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, prepared as described in Example 51, in 60 μm3 of dioxane. The reaction medium is then refluxed for 18 hours and filtered through a sinter funnel packed with Celite, and then concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is taken up in 70 cm3 of ethyl acetate and the organic phase is washed with 2×30 cm3 of distilled water and then with 30 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 1 g of N-[6-(2-chlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow wax.

reactant | 2-chlorophenylboronic acid | 853 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | water | 30 cm3 | O | H2O
reactant | sodium carbonate | 964 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[6-bromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | BrC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26BrN3O2Si
solvent | dioxane | 60 μm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 252 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[6-(2-chlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=C(C=CC=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C23H30ClN3O2Si
